* source AMP-MOSFET-80W
Q_Q1         N68899 N18297 N62646 BC556B 
V_V2         N15896 0 50Vdc
V_V1         0 N15974 +50Vdc
Q_Q5         N68903 N60990 N62650 BC556B 
R_R6         N17790 N18297  33k TC=0,0 
R_R7         N18307 N18297  1k TC=0,0 
C_C3         0 N18307  47u  TC=0,0 
Q_Q6         N42493 N16404 N16418 BC556B 
Q_Q7         N16404 N16418 N18658 BC556B 
R_R8         N16418 N18658  180 TC=0,0 
R_R9         0 N16404  22k TC=0,0 
D_D1         N15896 N18669 D1N4002 
R_R10         N18669 N18658  100 TC=0,0 
X_R12         N17905 N17905 N17916 POT PARAMS: SET=0.7 VALUE=200R
C_C4         N17905 N17916  100n  TC=0,0 
X_U3         N15896 N16843 N17790 ECX10N20
R_R16         N16843 N17916  220R TC=0,0 
X_U4         N15974 N18950 N17790 ECX10P20
R_R21         N18950 N17905  220R TC=0,0 
D_D2         N17790 N17890 BZX84C12V/PLP 
D_D3         N17916 N17890 D1N914 
D_D5         N17905 N17901 BZX84C12V/PLP 
D_D4         N17790 N17901 D1N914 
R_R23         N18177 N68895  220 TC=0,0 
R_R24         N18177 N68887  220 TC=0,0 
C_C10         N18567 N17790  22n  TC=0,0 
R_R25         0 N18567  6.8R TC=0,0 
C_C11         0 N18658  100u  TC=0,0 
D_D6         N18886 N15974 D1N4002 
R_R26         N18886 N18177  100 TC=0,0 
C_C12         0 N18177  100u  TC=0,0 
R_R28         0 N17790  4R TC=0,0 
C_C25         N18297 N17790  10p  TC=0,0 
R_R5         N62650 N42493  100 TC=0,0 
R_R29         N62646 N42493  100 TC=0,0 
C_C2         0 N60990  470p  TC=0,0 
V_V3         N60966 0  AC 1V
+SIN 0V 0.6V 1kHz 0 0 0
C_C1         N78732 N60976  3.3u  TC=0,0 
R_R4         N60990 N60976  470 TC=0,0 
R_R3         0 N60976  33k TC=0,0 
R_R35         N18177 N72228  1k TC=0,0 
R_R36         N18177 N72268  33 TC=0,0 
Q_Q29         N68899 N68891 N68887 QBC846BW/PLP 
Q_Q30         N68903 N68891 N68895 QBC846BW/PLP 
R_R38         0 N69304  22k TC=0,0 
Q_Q31         N69304 N69264 N18658 BC556B 
R_R37         N69264 N18658  75 TC=0,0 
Q_Q32         N17916 N69304 N69264 Q2N5401C 
Q_Q41         N17905 N79519 N72268 Q2N5551C 
Q_Q43         0 N68903 N72228 BC846B 
C_C26         N68903 N17905  18p  TC=0,0 
Q_Q44         0 N68899 N68891 QBC846BW/PLP 
R_R39         N78732 N60966  68 TC=0,0 
C_C27         0 N78732  100p  TC=0,0 
R_R40         N68899 N68903  4.7k TC=0,0 
R_R41         N18177 N68891  1k TC=0,0 
C_C28         N68891 N68899  1n  TC=0,0 
R_R42         N79519 N72228  470 TC=0,0 
D_D7         N68903 N68899 D1N914 
D_D8         N68899 N68903 D1N914 
.PARAM  cg=18p
